US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2,2′-(ethane-1,2-diylbis(oxy))diethanol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C37H41Cl2F2N3O7: [(M)+]748. found: 748.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2,2′-(ethane-1,2-diylbis(oxy))diethanol | C(COCCO)OCCO | C6H14O4
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl ester, hydrochloride | Cl.OCCOCCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | InChI=1S/C37H41Cl2F2N3O7.ClH/c1-36(2,3)20-30-37(21-42,25-10-9-23(38)19-27(25)40)31(24-6-5-7-26(39)32(24)41)33(44-30)34(46)43-28-11-8-22(18-29(28)48-4)35(47)51-17-16-50-15-14-49-13-12-45;/h5-11,18-19,30-31,33,44-45H,12-17,20H2,1-4H3,(H,43,46);1H/t30-,31-,33+,37-;/m0./s1
